US08710248B2
(E)-3-[2,4-Bis(benzyloxy)-5-benzyl-6-hydroxyphenyl]-1-[3,4-bis(benzyloxy)phenyl]-propene (#e)
At rt under an N2 atmosphere, 25% H2SO4/SiO2 (1.6 g, 4 mmol) was added in one batch to the stirred mixture of 2-benzyl-3,5-bis(benzyloxy)phenol (3.96 g, 10 mmol) and (E)-3,4-bis(benzyloxy)cinnamyl alcohol (3.46 g, 10 mmol) in dry CH2Cl2 (80 mL). The resulting mixture was stirred at rt overnight. After filtration and evaporation, the residue was purified by column chromatography on silica gel (EtOAc/n-hexane=1/7 v/v) and recrystallized from EtOAc and n-hexane to give a white solid, (3.4 g, 46.0% yield): mp 93-95° C.; 1H NMR (CDCl3, 400 MHz) δ 7.41-7.22 (m, 30H), 6.92 (s, 1H), 6.79 (s, 1H), 6.78 (d, f=4.0 Hz, 1H), 6.35 (A of AB, J=15.8 Hz, 1H), 6.26 (s, 1H), 6.13-6.07 (B of ABt, J=15.8, 5.0 Hz, 1H), 5.08 (s, 2H), 5.07 (s, 2H), 4.99 (s, 4H), 4.02 (s, 2H), 3.55 (d, J=5.0 Hz, 2H); 13C NMR (CDCl3, 400 MHz) δ 156.1, 155.6, 154.0, 148.9, 148.2, 141.1, 137.2, 137.1, 131.0, 130.1, 128.5, 128.4, 128.2, 127.8, 127.7, 127.6, 127.3, 127.2, 127.1, 126.5, 125.7, 119.7, 114.9, 112.4, 109.6, 107.3, 91.4, 71.1, 70.5, 70.3, 28.8, 26.6; HRMS (ESI): calcd for C50H44O5Na (M+Na) 747.3086. found 747.3096.

reactant | 2-benzyl-3,5-bis(benzyloxy)phenol | 10 mmol, 3.96 g | C(C1=CC=CC=C1)C1=C(C=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)O | C27H24O3
reactant | (E)-3,4-bis(benzyloxy)cinnamyl alcohol | 10 mmol, 3.46 g | C(C1=CC=CC=C1)OC=1C=C(/C=C/CO)C=CC1OCC1=CC=CC=C1 | C23H22O3
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-[2,4-Bis(benzyloxy)-5-benzyl-6-hydroxyphenyl]-1-[3,4-bis(benzyloxy)phenyl]-propene | 46.0% yield | C(C1=CC=CC=C1)OC1=C(C(=C(C(=C1)OCC1=CC=CC=C1)CC1=CC=CC=C1)O)C/C=C/C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C50H44O5
